US03997585
A 57% oil dispersion of sodium hydride (8.45 g.; 0.20 mol.) is added to a solution of ethylene glycol (3.1 g.; 0.05 mol.) in 1,2-dimethoxyethane (100 ml.). The resulting suspension is stirred at room temperature for 2 hours and then cooled to +4° C. N,N-dimethylsulfamoyl chloride, 25.8 g. (0.18 mol.), is dissolved in 1,2-dimethoxyethane (400 ml.) and added dropwise to the solution with stirring. The reaction mixture is stirred at +4° C for an additional 24 hours. A precipitate forms which is filtered off and the filtrate is concentrated. The residue is partitioned between heptane and methanol, and the methanol solution is concentrated to a syrup which crystallizes from ethyl acetate to yield 1,2-bis-O-(N,N-dimethylsulfamyl)-1,2-ethanediol.

reactant | sodium hydride | 0.20 mol, 8.45 g | [H-].[Na+]
reactant | ethylene glycol | 0.05 mol, 3.1 g | C(CO)O | C2H6O2
reactant | N,N-dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
product | 1,2-bis-O-(N,N-dimethylsulfamyl)-1,2-ethanediol | CN(S(=O)(=O)OCCOS(N(C)C)(=O)=O)C | C6H16N2O6S2
